US07282588B2
1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
In a sealed tube was combined 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (11.48 mmol; WO03/000690A1), potassium acetate (34.43 mmol), bis(pinacolato)diboron (13.77 mmol),1,1′-bis(diphenylphosphino)ferrocenepalladium(II)dichloride dichloromethane complex (0.46 mmol) followed by anhydrous 1,4-dioxane (115 mL). The reaction mixture was stirred at 100° C. for 45 minutes then cooled to room temperature. After dilution with ethyl acetate (50 mL) and filtration through a pad of Celite, the filtrate was concentrated in vacuo. The residue was purified by silica gel chromatography (Analogix, 20-50% ethyl acetate/hexanes) to provide the title product as a white solid (92%). ESMS [M+H]+: 384.0

reactant | 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 11.48 mmol | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9BrN2O2S
reactant | potassium acetate | 34.43 mmol | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 13.77 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 115 mL | O1CCOCC1 | C4H8O2
product | 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 92% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2B2OC(C(O2)(C)C)(C)C | C19H21BN2O4S
